US05660598
A mixture of aniline (100 parts), 2-heptanone (220 parts), 4-toluene sulphonic acid (6 parts) and 3% palladium on carbon (5 parts) in a 1 liter autoclave was charged with hydrogen to a pressure of 80 atmospheres and heated at 150° C. for 40 hours. The cooled reaction mixture was diluted with ethyl acetate, filtered, washed with 1N-hydrochloric acid (6×200 parts) and water (2×200 parts), the ethyl acetate was separated and dried (MgSO4) before evaporating to leave N-(1-methylhexyl)aniline (76 parts, 37%).

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 2-heptanone | CC(CCCCC)=O | C7H14O
reactant | 4-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-methylhexyl)aniline | 37% | CC(CCCCC)NC1=CC=CC=C1 | C13H21N
